US07678917B2
To a stirred solution of the (1R,3S,4S)-3-amino-4-hydroxy-cyclopentanecarboxylic acid methyl ester (300 mg) at r.t. in DMF (7.0 ml) under an argon atmosphere were added N-ethyldiisopropylmine (0.96 ml), 2-thiophene carboxylic acid (314 mg) and BOP (1.04 g). The mixture was then stirred at r.t. for 19 h. The clear brown solution was diluted with EtOAc and washed with H2O. The aqueous phase was back extracted with EtOAc. The combined organics were washed with H2O and brine, dried (MgSO4), filtered and concentrated. The crude product was purified by column chromatography (silica gel; gradient: cyclohexane→cyclohexane/EtOAc 1:1) to give (1R,3S,4S)-3-hydroxy-4-[(thiophene-2-carbonyl)-amino]-cyclopentanecarboxylic acid methyl ester as light brown gum. MS: 270.3 ([M+H]+).

reactant | (1R,3S,4S)-3-amino-4-hydroxy-cyclopentanecarboxylic acid methyl ester | 300 mg | COC(=O)[C@@H]1C[C@@H]([C@H](C1)O)N | C7H13NO3
reactant | 2-thiophene carboxylic acid | 314 mg | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | BOP | 1.04 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 7.0 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1R,3S,4S)-3-hydroxy-4-[(thiophene-2-carbonyl)-amino]-cyclopentanecarboxylic acid methyl ester | COC(=O)[C@H]1C[C@@H]([C@H](C1)NC(=O)C=1SC=CC1)O | C12H15NO4S
